US06107329
A. 2-[(4-Chloro-3-nitro-phenyl)-hydrazono]-propionic acid ethyl ester
To a solution of sodium nitrite (2.17 g, 31 mmol) in water (60 mL) and conc. HCl (12 mL) at 0° C. was added 4-chloro-3-nitroaniline (5.0 g, 29 mmol). After 5 minutes, a solution of ethyl methylacetoacetate (4,5 mL, 29 mmol) in water (60 mL), ethanol (30 mL) and 50% potassium hydroxide (10 mL) was added and the reaction mixture was stirred overnight. The precipitate was collected (7.0 g, 91%).

reactant | sodium nitrite | 31 mmol, 2.17 g | N(=O)[O-].[Na+]
reactant | 4-chloro-3-nitroaniline | 29 mmol, 5.0 g | ClC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | ethyl methylacetoacetate | 29 mmol, 4,5 mL | CCC(CC(=O)OCC)=O | C7H12O3
solvent | water | 60 mL | O | H2O
solvent | HCl | 12 mL | Cl | ClH
solvent | water | 60 mL | O | H2O
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | potassium hydroxide | 10 mL | [OH-].[K+]
product | 2-[(4-Chloro-3-nitro-phenyl)-hydrazono]-propionic acid ethyl ester | C(C)OC(C(C)=NNC1=CC(=C(C=C1)Cl)[N+](=O)[O-])=O | C11H12ClN3O4
